US07799775B2
In 120 ml of ethanol, 8.0 g of ethyl 2-[5-(4-quinolin-2-ylpiperazin-1-yl)pentanoylamino]cyclohex-1-enecarboxylate as synthesized in above Step 4-1-C was dissolved, and to the solution 60 ml of hydrazine monohydrate was added, followed by 4 hours' heating under reflux. Distilling the solvent off under reduced pressure, the residue was dissolved in chloroform, washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. Distilling the solvent off under reduced pressure, the residue was purified on silica gel column chromatography (chloroform:methanol=50:1) to provide 3.8 g (51%) of 3-amino-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one.

reactant | ethyl 2-[5-(4-quinolin-2-ylpiperazin-1-yl)pentanoylamino]cyclohex-1-enecarboxylate | 8.0 g | N1=C(C=CC2=CC=CC=C12)N1CCN(CC1)CCCCC(=O)NC1=C(CCCC1)C(=O)OCC | C27H36N4O3
reactant | hydrazine monohydrate | 60 ml | O.NN
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 3-amino-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 3.8 g, 51% | NN1C(=NC=2CCCCC2C1=O)CCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C25H32N6O
